US06245746B1
A well, stirred cold solution (0° C.) of Nα-Boc-Nδ-Cbz-ornithine (5 g, 13.6 mmol), diisopropylethylamine (5.9 ml, 34 mmol), and tetrahydrofuran (60 ml) was treated with ethyl chloroformate (3.25 ml, 34 mmol) at 0° C. Sodium borohydride (2.58 g, 68 mmol) was added, followed by the slow addition of 1:1-tetrahydrofuran/water (10 ml) 30 minutes later. The reaction mixture was acidified with 6N hydrochloric acid and the solution was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and purified by chromatography to give Nα-Boc-Nδ-Cbz-ornithinol (3.9 g): 1H NMR (400 MHz, CDCl3) δ1.2-1.4 (m, 13H), 3.0 (t, J=6.4 Hz, 2H), 3.4 (s, 2H), 3.8 (s, 1H), 4.95 (s, 2H), and 7.1-7.2 (m, 5H).

reactant | Nα-Boc-Nδ-Cbz-ornithine | 13.6 mmol, 5 g | C(=O)(OC(C)(C)C)N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C18H26N2O6
reactant | diisopropylethylamine | 34 mmol, 5.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | 34 mmol, 3.25 ml | ClC(=O)OCC | C3H5ClO2
reactant | Sodium borohydride | 68 mmol, 2.58 g | [BH4-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Nα-Boc-Nδ-Cbz-ornithinol | 3.9 g | C(=O)(OC(C)(C)C)N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)CO | C18H28N2O5
